US04332611
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide
A mixture containing 5 g of N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide, 20 ml of ethanol, 2.5 ml of water and 2.5 g of potassium hydroxide was stirred at ambient temperature and pressure for 18 hours. The mixture was then diluted with 250 ml of water and 20 ml of concentrated hydrochloric acid was added with stirring. The precipitate was filtered and washed with water and dried to yield 4.85 g of the desired product, melting at 161°-2° C. The infrared absorption peaks at 3500, 3400 and 1700 cm-1 are consistent with the desired structure and the nuclear magnetic resonance absorption peaks at 3.95 ppm, S, 6H, OCH3 of pyrimidine; 5.8 ppm S, 1H, pyrimidine proton at position 5; and 7.6-8.3 ppm, M, 4H, aromatic protons, are consistent with the desired structure.

reactant | N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 5 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O7S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
solvent | water | 250 ml | O | H2O
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 2.5 ml | O | H2O
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-carboxybenzenesulfonamide | 4.85 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)O | C14H14N4O7S
